US06172085B2
2-Bromo-3-(methoxymethoxy)-1,4,5-trimethylbenzene
Under nitrogen gas, a solution of 2-bromo-3,5,6-trimethylphenol (10 g) in N,N-dimethylformamide (50 mL) was added dropwise to a suspension of 60% sodium hydride (2.1 g) in N,N-dimethylformamide (20 mL) under ice-cooling and the mixture was stirred for 10 minutes. To this mixture was further added a solution of chloromethyl methyl ether (3.9 mL) in N,N-dimethylformamide (5mL) dropwise and the mixture was stirred for another 30 minutes. This reaction mixture was diluted with iced water and extracted with ethyl acetate. The extract was washed with saturated aqueous sodium chloride solution, dried over MgSO4, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=97:3) to provide the title compound (12 g). Yield 99%.

reactant | 2-bromo-3,5,6-trimethylphenol | 10 g | BrC1=C(C(=C(C=C1C)C)C)O | C9H11BrO
reactant | sodium hydride | 2.1 g | [H-].[Na+]
reactant | chloromethyl methyl ether | 3.9 mL | COCCl | C2H5ClO
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-Bromo-3-(methoxymethoxy)-1,4,5-trimethylbenzene | 12 g, Yield 99% | BrC1=C(C=C(C(=C1OCOC)C)C)C | C11H15BrO2
